US07612075B2
C. 4-(2-Oxopiperazin-1-ylmethyl)benzamidine.
To a solution of 4-(4-carbamimidoylbenzyl)-3-oxopiperazine-1-carboxylic acid benzyl ester (2.0 g, 5.0 mmol) in 40 mL of MeOH and 4 mL of AcOH is added 10% Pd/C (0.4 g). The atmosphere above the reaction is replaced by hydrogen. After 4 hours, the solution is filtered through a pad of Celite. The organic layer is concentrated. The resulting crude product is purified by RP-HPLC eluting in a gradient of 10% CH3CN/H2O (0.1%TFA) to 40% CH3CN/H2O (0.1% TFA). The title compound is obtained as a white foam. 1H NMR (d6-DMSO, 300 MHz) δ9.3 (bs, 4H), 9.1 (bs, 2H), 7.83 (d, 2H), 7.42 (d, 2H), 4.78 (s, 2H), 3.80 (s, 2H), 3.44 (m, 2H), 3.32 (m, 2H).

reactant | 4-(4-carbamimidoylbenzyl)-3-oxopiperazine-1-carboxylic acid benzyl ester | 5.0 mmol, 2.0 g | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)CC1=CC=C(C=C1)C(N)=N)=O | C20H22N4O3
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 40 mL | CO | CH4O
solvent | AcOH | 4 mL | CC(=O)O | C2H4O2
catalyst | Pd/C | 0.4 g | [Pd] | Pd
product | 4-(2-Oxopiperazin-1-ylmethyl)benzamidine | O=C1N(CCNC1)CC1=CC=C(C(=N)N)C=C1 | C12H16N4O
